US04789704
Synthesis of o-allylphenol/1,3-bisglycidylresorcinol adduct
In a similar manner to that described in Example 1, o-allylphenol (134 g), 1,3-bisglycidylresorcinol (115.1 g), triphenylethylphosphonium iodide (0.75 g) and methylglycolate (145 g) were reacted at 100° C. for 13 hours. The solvent and excess o-allylphenol were removed by heating at 140° C. finally in vacuo. The yield of adduct was 227.9 g and it showed a viscosity of 280 mPa.s at 70° C.

reactant | o-allylphenol | 134 g | C(C=C)C1=C(C=CC=C1)O | C9H10O
reactant | 1,3-bisglycidylresorcinol | 115.1 g | C(C1CO1)C1(O)CC(O)(CC=C1)CC1CO1 | C12H18O4
reactant | triphenylethylphosphonium iodide | 0.75 g | [I-].C1(=CC=CC=C1)C(C[PH3+])(C1=CC=CC=C1)C1=CC=CC=C1
reactant | methylglycolate | 145 g | CC(C(=O)[O-])O
product | o-allylphenol 1,3-bisglycidylresorcinol | C(C=C)C1=C(C=CC=C1)O.C(C1CO1)C1(O)CC(O)(CC=C1)CC1CO1 | InChI=1S/C12H18O4.C9H10O/c13-11(4-9-6-15-9)2-1-3-12(14,8-11)5-10-7-16-10;1-2-5-8-6-3-4-7-9(8)10/h1-2,9-10,13-14H,3-8H2;2-4,6-7,10H,1,5H2
